US05130119
(a) 2-[N-(2,4,6-Trifluorophenyl)sulfamoyl]-acetic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide]
1.38 g (3.16 mmol) of 2-[N-(2,4,6-trifluorophenyl)sulfamoyl] acetic acid is dissolved in 20 ml of DMF with exclusion of moisture and under argon atmosphere, 509 mg (3.16 mmol) of 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine and 484 mg (3.16 mmol) of hydroxybenzotriazole are added and the solution is cooled to -10° C. 652 mg (3.16 mmol) of dicyclohexylcarbodiimide is added to the cooled solution, it is stirred for one hour at -10° C and for 12 more hours at room temperature. The turbid reaction solution is then filtered and the clear filtrate is evaporated to dryness in a vacuum. The residue is dissolved in 100 ml of ethyl acetate and the solution is shaken out five times with saturated sodium bicarbonate solution and twice with water. The ethyl acetate solution is dried on sodium sulfate, filtered and evaporated to dryness. The residue is chromatographed on silica gel 60 (Merck) with ethyl acetate/methylene chloride 8:2. The corresponding fractions together contain 0.62 g (1.42 mmol)=45% of the theoretical yield of product is obtained as an amorphous solid.

reactant | 2-[N-(2,4,6-trifluorophenyl)sulfamoyl] acetic acid | 3.16 mmol, 1.38 g | FC1=C(C(=CC(=C1)F)F)NS(=O)(=O)CC(=O)O | C8H6F3NO4S
reactant | 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine | 3.16 mmol, 509 mg | OC(CN)C1OC(OC1)(C)C | C7H15NO3
reactant | hydroxybenzotriazole | 3.16 mmol, 484 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 3.16 mmol, 652 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-[N-(2,4,6-Trifluorophenyl)sulfamoyl]-acetic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] | OC(CNC(CS(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O)C1OC(OC1)(C)C | C15H19F3N2O6S
